data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3827,"CCCCCCC1CCC([OH:1])C(=O)O1.CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C1=CC=C(CBr)C=C1|(1, 2)"
train,pmechdb_split_0,0,8181,"C[P:1](C)(C)(O)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5780,"CCOCC.C[C:1]#[N+:2]C1C([OH:3])CC(=O)N1CC1=CC=CC=C1.O[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6532,"CCN[C:1](C)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4297,"C1COC(=[O:1])C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8889,"C1CCC2=[N:1]CCCN2CC1.C=C(Br)C(=O)OC.COC(=O)[CH:2]([H:3])[C:4](C)=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5910,"C=C.CCCC[N+](CCCC)(CCCC)CCCC.COCOC(=O)C1=C(OC)C2C#CC=CC#CC3N(C(=O)[O-])C4=C(C=C(O[Si:1](C)(C)C(C)C)C=C4)C24OC34C1C.C[Si](C)(C)F.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,6131,"BrC1=C(C=[O:1])C=C2OCOC2=C1.C1=CC=[N+:2]([H:3])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCCO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8850,"CC=C[CH:1]=[CH:2]C.[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4745,"FC(F)(F)C1=CC=C[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,6737,"CC(=O)C1C(SC2=CC=CC=C2)CCC1[CH:1]=[C:2](C)[O-:3].[H:4][OH:5].[K+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3816,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-:1])C=C1.N#C[C:2]1([H:3])CC(O)(C2=CC=CC=C2)[O+:4]=[C:5]1C1=CC=CC=C1|(1, 3);((3, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6417,"CSCCC(N[C:1]([O:2][C:3](C)(C)C)=[OH+:4])C(=O)NCCC(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7429,"F[B-](F)(F)[O:1]CC[O+:2]=[CH2:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4235,"C1=CC=C(CC[CH:1]=[CH2:2])C=C1.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4391,"O=S(=O)(C(F)(F)F)[O:1][S:2](=O)(OC1=CC=CC=C1)(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2576,"C=C[C:1](NCC)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2383,"C=C[C:1]([CH2:2][B-:3](CCC)(CCC)[O+:4]=[CH:5]CC(C)C)=[CH2:6]|((3, 2), 1);((1, 6), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2763,"C[Si-:1](C)(C)(Cl)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3305,"C=CCOC(=O)N1CCCC1C(=O)NC=CC1=C(OC)C=CC(OC2CCN(C(=O)OC(C)(C)C)C2C[O+:1](I2(OC(C)=O)(OC(C)=O)OC(=O)C3=C2C=CC=C3)[H:2])=C1.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1034,"C=C[CH2:1][Li:2].CC1[CH2:3][O:4]1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9564,"CC1=CC(=[O:1])CCC1(C)CCC#CC[Si](C)(C)C.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2236,"CC(=O)[O-].O=S(CCN1CCC2CC[C:1]([NH:2]NC3=CC=CC=C3)([OH2+:3])CC21)C1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9841,"CCO[C:1](C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4038,"B.CC1(C)OC(C(C=O)OCC2=CC=CC=C2)C(C(C[O-:1])OCC2=CC=CC=C2)O1.C[O:2][H:3].O=C([O-])C(F)(F)F.[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6709,"CC(=O)[O-].CC1=CC=C(C2=CC(C3=CC=C(C)N3)=CC([C:1]3([OH2+:2])CC=C(C)[NH:3]3)=C2)N1.O.O=C[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1484,"[CH2:1]([O-:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8552,"CC(C)C(O)(CC1=CC=CC=C1)[C:1](C1=CC=CC=C1)([H:2])[C:3](C(C)C)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3897,"C=CC(O)(Cl)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4961,"CO[C:1]([C-:2](C)C)=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9666,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC2=C(C=C1)[C:2]([N+](=O)[O-])([H:3])[CH+:4]C=C2|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,3913,"C[N+:1]1([H:2])CCCC1C1=CN=CC=C1.O=C([O-])[O-:3].[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5026,"CC1=C2C3=CC(C(O)[O+:1](O)[H:2])=CC=C3N(C)C2=C(C)C2=C1C=NC=C2.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8011,"C[CH:1]=[OH+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7294,"CC(C)C[C:1](CC1CCCCC1)=[O:2].CCC[CH2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4].[Li+]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5261,"CCO.CCOP(=O)(OCC)C(C)C(=O)CC1CCCC1(O)[O:1]CCO.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1746,"C1CCC2([OH+:1][H:2])NCCCC2C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2016,"CCCO[C:1](C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10020,"CCCCC(=O)C1=C(O)C=CC(Br)=C1.O=C(C(F)(F)F)[O:1][H:2].O=[N+]([O-])C1=CC=C(C(N2CCCC2C2=NN=NN2)[OH:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4631,"CO[C:1](OC)([OH+:2]C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3815,"C[Si](C)(C)C[C:1]#[CH:2].O=C[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3609,"C[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,7661,"C[CH:1]=[O+:2][Cu]|((1, 2), 2)"
train,pmechdb_split_0,0,3029,"C1CCNC1.CN1C2CCCC1CC(=[O:1])C2.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,1655,"C1=CC2=CC=C[CH:1]=[C:2]2C=C1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,629,"COC(=O)C1(CC(=O)[CH-:1]C)C(C)CC[C:2]1=[O:3].[H][H].[Na+]|(1, 2);((2, 3), 3)"
